US06265418B1
Ethyl 4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-acetate.
In 50 ml of methylene chloride was dissolved 4.10 g (12.6 mmol) of ethyl 6-t-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-acetate, and under ice-cooling, 10 ml of CF3CO2H was added to the residue and the mixture was stirred at room temperature for 2 hours.

reactant | ethyl 6-t-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-acetate | 12.6 mmol, 4.10 g | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)CC(=O)OCC | C15H22N2O4S
reactant | CF3CO2H | 10 ml | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-acetate | N1=C(SC=2CNCCC21)CC(=O)OCC | C10H14N2O2S
